US06479510B2
N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-4-phenoxybenzamide
TEA (50 μL, 0.35 mmol) is added to a suspension of 4-phenoxybenzoic acid (75 mg, 0.35 mmol) in CH2Cl2 (1 mL). Diphenylchlorophosphate (62 μL, 0.3 mmol) is added and the resulting solution is stirred at room temperature for 30 minutes. A solution of (R)-3-aminoquinuclidine (1M in DMF, 0.2 mL, 0.2 mmol) is added and the resulting solution is stirred overnight at room temperature. MeOH is added and the mixture is poured through a column of AG50W×2 ion exchange resin (H+ form). The resin is washed with MeOH and then the product is eluted with 5% TEA in MeOH. The eluent is evaporated to dryness to yield the desired product (49 mg, 76%). MS for C20H22N2O2 (ESI) (M+H)+ m/z 323.

reactant | 4-phenoxybenzoic acid | 0.35 mmol, 75 mg | O(C1=CC=CC=C1)C1=CC=C(C(=O)O)C=C1 | C13H10O3
reactant | Diphenylchlorophosphate | 0.3 mmol, 62 μL | C1(=CC=CC=C1)OP(=O)(OC1=CC=CC=C1)Cl | C12H10ClO3P
reactant | (R)-3-aminoquinuclidine | 0.2 mmol, 1M, 0.2 mL | N[C@H]1CN2CCC1CC2 | C7H14N2
reactant | MeOH | CO | CH4O
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-[(3R)-1-azabicyclo[2.2.2]oct-3-yl]-4-phenoxybenzamide | 49 mg, 76% | N12C[C@@H](C(CC1)CC2)NC(C2=CC=C(C=C2)OC2=CC=CC=C2)=O | C20H22N2O2
